US05248655
To a solution of 1-methyl-1,2,4-triazole (3.0 g, 36.1 mmol) in tetrahydrofurane (60 ml) was added n-buthyllithium (43.3 mmol, 1.2 eq) at -78° C. under nitrogen. The mixture was stirred for 1 hour, then diethyl 3-oxo-butylphosphonate (8.3 g, 39.7 mmol, 1.1 eq) was added. The mixture was stirred for 2 hours and quenched with aq. NH4Cl (ca. 15 ml). The mixture was warmed to room temperature and extracted with CH2Cl2 (5×100 ml). The extract was dried over MgSO4, concentrated in vacuo, and purified by a silica gel column chromatography (200 g, AcOEt-EtOH) to give (2.99 g, 28% yield) of diethyl 3-hydroxy-3-methyl-3-(1-methyl-1,2,4-triazol-5-yl)propyl-phosphonate.

reactant | 1-methyl-1,2,4-triazole | 36.1 mmol, 3.0 g | CN1N=CN=C1 | C3H5N3
reactant | diethyl 3-oxo-butylphosphonate | 39.7 mmol, 8.3 g, 1.1 eq | O=C(CCP(OCC)(OCC)=O)C | C8H17O4P
solvent | tetrahydrofurane | 60 ml | O1CCCC1 | C4H8O
product | diethyl 3-hydroxy-3-methyl-3-(1-methyl-1,2,4-triazol-5-yl)propyl-phosphonate | 2.99 g, 28% yield | OC(CCP(OCC)(OCC)=O)(C1=NC=NN1C)C | C11H22N3O4P
